### PR TITLE
feat(ErdosProblems): 1002

### LINKED ISSUE #1065: Erdős Problem 1002
### What is the conjecture

https://www.erdosproblems.com/1002

  For any $0<\alpha<1$, let
$$f(\alpha,n)=\frac{1}{\log n}\sum_{1\leq k\leq n}(\tfrac{1}{2}-\\{ \alpha k\\}).$$
Does $f(\alpha,n)$ have an asymptotic distribution function?

In other words, is there a non-decreasing function $g$ such that $g(-\infty)=0$, $g(\infty)=1$,
and 
$$\lim_{n\to \infty}\lvert \\{ \alpha\in (0,1): f(\alpha,n)\leq c\\}\rvert=g(c)?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #1065 

Formalizes Erdos Problem 1002: https://www.erdosproblems.com/1002

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1002.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+@[category research open, AMS 11]
+theorem erdos_1002 :
+    answer(sorry) ↔
+      ∃ f : ℝ → ℝ, Monotone f ∧
+      Tendsto f atBot (𝓝 0) ∧
+      Tendsto f atTop (𝓝 1) ∧
+      ∀ c : ℝ, Tendsto (fun (n : ℕ) ↦
+        (volume { α | α ∈ Ioo (0 : ℝ) 1 ∧
+          (1 / log n) * ∑ k ∈ Icc (1 : ℕ) n, (1 / 2 - Int.fract (α * k)) ≤ c }).toReal)
+        atTop (𝓝 (f c)) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1002.lean]:
```suggestion
    answer(sorry) ↔
      ∃ g : ℝ → ℝ, Monotone g ∧
      Tendsto g atBot (𝓝 0) ∧
      Tendsto g atTop (𝓝 1) ∧
      letI f :=  fun (α : ℝ) (n : ℕ) ↦
        (1 / log n) * ∑ k ∈ Icc (1 : ℕ) n, (1 / 2 - Int.fract (α * k))
      ∀ c : ℝ, Tendsto (fun (n : ℕ) ↦ (volume { α | α ∈ Ioo (0 : ℝ) 1 ∧ f α n ≤ c }).toReal)
        atTop (𝓝 (g c)) := by
```

I suggest to keep in sync with the naming from the doc string...

File: FormalConjectures/ErdosProblems/1002.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+@[category research solved, AMS 11]
+theorem erdos_1002.variants.kesten :
+    ∃ ρ > 0, ∀ β : ℝ,
+      let g := fun (c : ℝ) ↦ (1 / π) * ∫ t in Iic (ρ * c), 1 / (1 + t^2)
+      ∀ c : ℝ, Tendsto (fun (n : ℕ) ↦
+        (volume { α | α ∈ Ioo (0 : ℝ) 1 ∧
+          (1 / log n) * ∑ k ∈ Icc (1 : ℕ) n, (1 / 2 - Int.fract (β + α * k)) ≤ c }).toReal)
+        atTop (𝓝 (g c)) := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1002.lean:66]: something seems off here: Isn't `erdos_1002.variants.kesten` just a stronger version of `erdos_1002` ?
In fact AlphaProof can prove: 
```lean4
theorem implication : type_of% erdos_1002.variants.kesten → type_of% erdos_1002 := by
  use fun⟨x,A, B⟩=>⟨ _,fun _ _ _=>mul_le_mul_of_nonneg_left ?_ (by positivity),? _,? _,(B 0 ·|>.congr fun and=>by simp_rw [zero_add])⟩
  · norm_num[*,Real.pi_pos]
  · let α :=MeasureTheory.intervalIntegral_tendsto_integral_Iic 0 integrable_inv_one_add_sq.restrict<|Filter.tendsto_id.const_mul_atBot A
    use(((sub_self (_: ℝ)▸α.const_sub _).congr' (Filter.eventually_atBot.2 ⟨0,fun a s=>sub_eq_of_eq_add (by norm_num[s,A,mul_nonpos_iff, A.le])⟩)).const_mul _).trans (by rw [mul_zero])
  · apply(((MeasureTheory.tendsto_setIntegral_of_monotone (by(norm_num)) (monotone_Iic) (integrable_inv_one_add_sq.restrict.const_mul _)).comp ↑(.const_mul_atTop A ↑le_rfl)).const_mul _).trans (congr_arg (@ _) (by norm_num)).ge
```

I suspect perhaps the quantificatin over beta might be the problem, which is not very explicit on erdosproblems.com. Perhaps it is best to look into the original sources (or comment section).

**Review by mo271 — DISMISSED** [review]

File: FormalConjectures/ErdosProblems/1002.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1002.lean]: Done.

File: FormalConjectures/ErdosProblems/1002.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1002.lean:66]: Yup, great catch. I took a look at Keston's paper here: https://www.jstor.org/stable/1969938

On page 445, both $\alpha$ and $\beta$ are restricted to $[0, 1]$. This should make the variant weaker than erdos_1002 now. I also don't believe there should be a difference using $[0, 1]$ vs $(0, 1)$ in either the original conjecture or Keston's variant. I've changed Keston's variant to use the closed interval, but left the original conjecture to use an open interval since that's what's listed on the Erdos Problems website.

**Comment by Smetalo** [comment]
I suppose the first comment should have said that this PR closes #1065?

**Review by Paul-Lez — APPROVED** [review]
